US07323455B2
7-(2,3-Difluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(H)-one
Prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 2,3-difluoro benzeneboronic acid generally according to the coupling procedure described in example 1. 1H NMR (DMSO-d6): δ 10.04 (s, 1H), 7.2-7.45 (m, 6H), 4.28 (s, 2H), 1.59 (s, 6H); MS (ESI) m/z 304 ([M+H]+); MS (ESI) m/z 302 ([M−H]−).

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 2,3-difluoro benzeneboronic acid | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
product | 7-(2,3-Difluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(H)-one | CC1(C2=C(C=CC(=C2)C3=C(C(=CC=C3)F)F)NC(=O)CO1)C | C17H15F2NO2
